US08461372B2
To a mixture of 4-nitro phenyl alanine (500 g), sodium hydroxide (162 g) and water (5000 ml) maintained at 0 to 5° C., was added drop wise 50% benzyl chloroformate in toluene (977 g). The reaction mixture was allowed to slowly come to room temperature and further stirred overnight. The reaction mixture was cooled to 10° C. and the pH was adjusted to 2 with dilute HCl. The residue precipitated was filtered and dried to yield pure 2-Benzyloxycarbonylamino-3-(4-nitro-phenyl)-propionic acid (600 g) as an off white powder with a melting point of 123-127° C. The product was characterized by IH NMR (CDCl3+DMSO-d6) δ 3-3.20 (m, 2H, CH2), 4.30 (m, 1H, CH), 4.90 (s, 2H, CH2), 7.20 (m, 6H, Ar & NH), 7.40 (d, 2H, Ar), 8.05 (d, 2H, Ar)

reactant | 4-nitro phenyl alanine | 500 g | [N+](=O)([O-])C1=CC=C(C=C1)N[C@@H](C)C(=O)O | C9H10N2O4
reactant | sodium hydroxide | 162 g | [OH-].[Na+]
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | HCl | Cl | ClH
reactant | water | 5000 ml | O | H2O
solvent | toluene | 977 g | C1(=CC=CC=C1)C | C7H8
product | 2-Benzyloxycarbonylamino-3-(4-nitro-phenyl)-propionic acid | 600 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H16N2O6
